US04560692
(a) 2-(4-fluorophenyl)-4-quinolinecarboxylic acid
To a suspension of 36.78 g (0.25 mol) of isatin in 500 ml of ethanol was added 75 ml of 10N sodium hydroxide. After a few minutes of stirring a solid precipitated. To this mixture was added 35 ml (0.286 mol) of p-fluoroacetophenone, and it was stirred and heated under reflux for 1.5 hr. It was then allowed to cool slightly, and acidified with 250 ml of 3N hydrochloric acid. The precipitated solid was collected, washed with water and with ether, and dried to give 50.6 g of crude product, mp 205-215. Recrystallization from ethanol gave 38.8 g of the above-named acid, mp 210°-213° dec.

reactant | isatin | 0.25 mol, 36.78 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | sodium hydroxide | 10N, 75 ml | [OH-].[Na+]
reactant | p-fluoroacetophenone | 0.286 mol, 35 ml | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | hydrochloric acid | 3N, 250 ml | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(4-fluorophenyl)-4-quinolinecarboxylic acid | 38.8 g | FC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C16H10FNO2
